US06509349B1
8-[3-aminoethyl-pyrrolidinyl]-1-cyclopropyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylic acid
A series of procedures similar to Example 1 above is carried out, using Ethyl-8-chloro-1-cyclopropyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylate (Precursor B) and 3-(N-boc-aminoethyl)pyrrolidine (Precursor D) as the starting materials.

reactant | Ethyl-8-chloro-1-cyclopropyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylate | C(C)OC(=O)C1=CC(=C2C(=C(C=CN2C1=O)Cl)OC)C1CC1 | C16H16ClNO4
reactant | 3-(N-boc-aminoethyl)pyrrolidine | C(=O)(OC(C)(C)C)NCCC1CNCC1 | C11H22N2O2
product | 8-[3-aminoethyl-pyrrolidinyl]-1-cyclopropyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylic acid | NCCC1CN(CC1)C=1C=CN2C(C(=CC(=C2C1OC)C1CC1)C(=O)O)=O | C20H25N3O4
